Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bradycardia, hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of severe anorexia nervosa presents to the 
emergency department with c/o lab abnormalities. As part of a 
routine doctor's appointment yesterday the patient had sodium 
127 and HR 35. She was encouraged to go to the ED for medical 
admission. Upon arrival the patient denies any complaints. She 
denies headache, chest pain, palpitations, SOB, abdominal pain,
N&V, diarrhea, or dysuria. LMP was "several years ago."      

In the ED: Patient bradycardic but otherwise HDS. In no acute 
distress.

Initial vital signs were notable for: HR 36

Exam notable for: Thin habitus. 

Labs were notable for: WBC 3.6, AST 63, Alb 5.5, Na 132, Glucose 
45

Studies performed include: 
EKG: Sinus bradycardia
CXR: No acute intrathoracic process

Patient was given: Dextrose

Consults: Psychiatry, Nutrition, Social Work

Vitals on transfer: T 98.0, BP 104/66, HR 37, RR 18, O2 sat 98% 
on room air

Upon arrival to the floor, bradycardic but otherwise HDS and in 
no acute distress. She confirmed the above history. Denies ever 
having dizziness or syncope. States her last menstrual period 
was several years ago. Denies binging/purging and using 
diuretics, diet pills, or laxatives. 

We explained to her the eating disorder protocol (i.e., daily 
weights, supervised meals, etc.) and she said she was amenable.  
She states that she normally drinks a lot of water. 

REVIEW OF SYSTEMS: Complete ROS obtained. Endorsed occasional 
bloating and
constipation but otherwise negative.
 
Past Medical History:
Leukopenia
 
Social History:
___
Family History:
Not relevant to current hospital admission. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS: T 98.2, BP 110/68, HR 49, RR 18, O2 sat 100% on room air 
Weight: 42.5kg
GENERAL: Alert and interactive. In no acute distress. Very thin.
CARDIAC: Regular rhythm, bradycardic. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No peripheral edema. 
NEUROLOGIC: AOx3.

DISCHARGE PHYSICAL EXAM:
========================
___ 0755 Temp: 97.8 PO BP: 92/50 Lying HR: 43 RR: 18 O2 
sat: 98% O2 delivery: Ra Weight: 41.96kg (up from 41.9kg ___
GENERAL: Alert, calm, sitting at table post meal. 
HEENT: Moist mucous membranes.
CARDIAC: Regular rhythm, bradycardic at rest but not with 
activity. 
LUNGS: Clear to auscultation bilaterally.
ABDOMEN: Normal bowels sounds, non distended, non-tender.
EXTREMITIES: No peripheral edema.
Skin: Warm and well perfused. No rashes.
NEUROLOGIC: A&Ox3.
GENERAL: Alert and interactive. In no acute distress. Very thin.
CARDIAC: Regular rhythm, bradycardic. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. 
EXTREMITIES: No peripheral edema. 
NEUROLOGIC: AOx3.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:10PM BLOOD WBC-3.6* RBC-3.87* Hgb-13.4 Hct-38.4 
MCV-99* MCH-34.6* MCHC-34.9 RDW-12.5 RDWSD-45.1 Plt ___
___ 01:10PM BLOOD Neuts-72.6* Lymphs-18.3* Monos-7.9 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-2.58 AbsLymp-0.65* 
AbsMono-0.28 AbsEos-0.01* AbsBaso-0.02
___ 01:10PM BLOOD Glucose-45* UreaN-19 Creat-0.8 Na-132* 
K-6.5* Cl-95* HCO3-22 AnGap-15
___ 01:10PM BLOOD ALT-37 AST-63* AlkPhos-46 Amylase-46 
TotBili-0.6
___ 04:51PM BLOOD Lipase-45
___ 01:10PM BLOOD Albumin-5.5* Calcium-10.0 Phos-3.9 Mg-2.1
___ 07:55AM BLOOD VitB12-922* Folate-17
___ 04:51PM BLOOD Triglyc-75 HDL-137 CHOL/HD-1.6 LDLcalc-71
___ 01:10PM BLOOD Osmolal-271*
___ 04:51PM BLOOD TSH-2.8
___ 04:51PM BLOOD 25VitD-21*
___ 01:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:24PM BLOOD Na-132* K-4.0
___ 07:55AM BLOOD COPPER (SPIN NVY/NO ADD)-58L
___ 03:25PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 03:25PM URINE UCG-NEGATIVE Osmolal-300

DISCHARGE LABS:
==============
___ 07:03AM BLOOD WBC-3.1* RBC-3.23* Hgb-11.4 Hct-32.6* 
MCV-101* MCH-35.3* MCHC-35.0 RDW-12.0 RDWSD-45.0 Plt ___
___ 06:40AM BLOOD Glucose-68* UreaN-21* Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-27 AnGap-11
___ 06:40AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0

STUDIES/REPORTS:
===============
___ EKG HR 46, NSR, no ST/T wave changes, QTc 376, NI/NA

___ CXR No acute intrathoracic process

 
Brief Hospital Course:
___ with severe protein calorie malnutrition secondary to 
anorexia nervosa(restricting type), who was admitted with 
bradycardia, hypoglycemia, and hyponatremia. She met criteria 
for admission for a medically unstable eating disorder patient. 

ACTIVE ISSUES:
==============
#Severe protein calorie malnutrition: 
Secondary to suspected anorexia nervosa, restricting type. Given 
initial hyponatremia, hypoglycemia, and bradycardia, met 
criteria for admission for medically unstable eating disorder 
patient. Her hyponatremia and hypoglycemia has since resolved, 
and she has had no signs of refeeding syndrome. Nutrition and 
psychiatry provided recs. She had directly observed meals with 
supervision and daily standing weights.  She completed 100% of 
her meals. At time of discharge, she was deemed medically stable 
and has been accepted to ___ for continued treatment. Her 
standing weight at admission was 42.5 kg. Her standing weight at 
time of discharge was 41.96kg.

#Bradycardia, sinus
Asymptomatic. Family indicates that she is at her baseline HR. 
She is very physically fit at baseline. EKG resting HR 46. 
Telemetry nadir is low ___ in deep sleep. 

#Hyponatremia (resolved)
Na 127 on arrival, resolved with free water restriction and 
increased solute intake. Prior to admission, patient indicated 
that she drinks 100 fluid oz water plus multiple cups of soda 
water daily. Some component of psychogenic polydipsia present.
Her hyponatremia has resolved after decreased free water intake 
and increased solute intake. 

#Hypoglycemia (resolved)
Her hypoglycemia has resolved after receiving meals per eating 
disorder protocol.

CHRONIC ISSUES:
===============
#Leukopenia, Anemia, stable: 
Per patient, has had low white counts in the past for which she 
was seen at ___ by Dr. ___. Low counts likely due to 
hypoplastic marrow in setting of malnutrition.  

TRANSITIONAL ISSUES:
====================
-Continue treatment for severe protein malnutrition, suspected 
AN at ___.
-Discharged on vitamin D supplement and multivitamin with 
minerals.  
-Copper level 57 (L) on discharge.  Discharged on copper 
gluconate 2mg PO Daily x 14 days.  Please recheck copper level 
thereafter. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  copper gluconate 2 mg oral DAILY  
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Severe protein calorie malnutrition
Bradycardia
Hyponatremia, resolved
Hypoglycemia, resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WERE YOU IN THE HOSPITAL?
You were admitted to the hospital for monitoring due to concern 
for significant malnutrition.  

WHAT HAPPENED IN THE HOSPITAL?
You were put on a specific diet and were observed eating your 
meals. You successfully completed eating all your meals.

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
Go to ___ for continued treatment for your significant 
malnutrition. 

Thank you! We wish you the very best!

Sincerely,
___ Team
 
Followup Instructions:
___